US09119868B2
Step 2: (2-Chloro-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenethyl)boronic acid
Sodium periodate (722 mg, 3.37 mmol) and 1N aqueous HCl (2.70 mL, 2.70 mmol) were added to a cold (0° C.) solution of 6-(N-(3-chloro-4-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (150 mg, 0.225 mmol) in THF (3 mL). The mixture was stirred at 0° C. for 10 min and then warmed to room temperature and stirred for 1 hour. The reaction mixture was diluted with ethyl acetate. The organic layer was separated, washed with 5% aqueous sodium thiosulfate and brine and dried over sodium sulfate. The solvent was evaporated and the residue was subjected to reverse phase HPLC (C18, acetonitrile:water with 0.1% formic acid) to give 33 mg (25%) of the title compound as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41-8.51 (m, 1H) 8.14 (s, 1H) 7.92-8.02 (m, 2H) 7.59 (s, 2H) 7.46-7.51 (m, 1H) 7.35-7.44 (m, 3H) 7.29-7.35 (m, 1H) 7.17 (s, 1H) 3.37 (s, 3H) 2.79-2.87 (m, 3H) 2.62-2.74 (m, 2H) 2.11-2.24 (m, 1H) 0.93-1.09 (m, 1H) 0.75-0.93 (m, 4H) 0.46 (m, 1H). LCMS (m/z, ES+)=585 (M+H+).

reactant | Sodium periodate | 3.37 mmol, 722 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | HCl | 2.70 mmol, 1N, 2.70 mL | Cl | ClH
reactant | 6-(N-(3-chloro-4-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)ethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.225 mmol, 150 mg | ClC=1C=C(C=CC1CCB1OC(C(O1)(C)C)(C)C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C34H37BClFN2O6S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Chloro-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenethyl)boronic acid | 33 mg, 25% | ClC1=C(CCB(O)O)C=CC(=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H27BClFN2O6S
